US06458781B1
Preparation of (S)-4-Phenyl-piperazine-1-carboxylic acid {1-[4,4-bis-(4-fluoro-phenyl)-butylcarbamoyl]-3-methyl-butyl}-amide
(S)-4-Methyl-2-[(4-phenyl-piperazine-1-carbonyl)-amino]pentanoic acid (0.300 g, 0.940 mmol) was dissolved in dry DMF (4 mL) under nitrogen atmosphere and cooled to 0° C. in an ice-water bath. To this solution were added, in succession, N,N-diisopropylethylamine (0.490 mL, 2.81 mmol) and solid O-benzotriazol-1-yl-N,N,N,′,N′-tetramethyluronium hexafluorophosphate (0.356 g, 0.939 mmol). The resulting reaction mixture was stirred at that temperature for 30 minutes; solid 4,4-bis-(4-fluoro-phenyl)-butylamine monohydrochloride (0.280 g, 0.940 mmol) was then added. After stirring for, sequentially, 10 minutes at 0° C. and 35 minutes at ambient temperature, reaction mixture was mixed with 60 mL of diethyl ether; the resulting mixture was successively washed with saturated aqueous NaHCO3 solution (2×60 mL), brine (2×60 mL), and was dried over Na2SO4. The solution was concentrated in vacuo affording a solid. Recrystallization from ether afforded 0.18 g (34%) of the pure titled compound as a white solid; mp 138-141° C. APCI-MS m/z 563.4 (MH+).

reactant | (S)-4-Methyl-2-[(4-phenyl-piperazine-1-carbonyl)-amino]pentanoic acid | 0.940 mmol, 0.300 g | CC(C[C@@H](C(=O)O)NC(=O)N1CCN(CC1)C1=CC=CC=C1)C | C17H25N3O3
reactant | N,N-diisopropylethylamine | 2.81 mmol, 0.490 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4,4-bis-(4-fluoro-phenyl)-butylamine monohydrochloride | 0.940 mmol, 0.280 g | Cl.FC1=CC=C(C=C1)C(CCCN)C1=CC=C(C=C1)F
reactant | diethyl ether | 60 mL | C(C)OCC | C4H10O
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | (S)-4-Phenyl-piperazine-1-carboxylic acid {1-[4,4-bis-(4-fluoro-phenyl)-butylcarbamoyl]-3-methyl-butyl}-amide | 0.18 g, 34% | FC1=CC=C(C=C1)C(CCCNC(=O)[C@H](CC(C)C)NC(=O)N1CCN(CC1)C1=CC=CC=C1)C1=CC=C(C=C1)F | C33H40F2N4O2
